US04067723
(±) 2-(α,2-Dimethoxybenzyl)furan (b.p. 112°-115° C./0.1 mm.Hg) was prepared in a manner similar to that described in Example 3(k) for the preparation of (±) 2-(2-chloro-α-methoxybenzyl)furan but replacing the (±) 2-(2-chloro-α-hydroxybenzyl)furan by (±) 2(α-hydroxy-2-methoxybenzyl)furan.

reactant | (±) 2-(2-chloro-α-methoxybenzyl)furan | ClC1=C(C(OC)C=2OC=CC2)C=CC=C1 | C12H11ClO2
reactant | (±) 2(α-hydroxy-2-methoxybenzyl)furan | OC(C1=C(C=CC=C1)OC)C=1OC=CC1 | C12H12O3
product | (±) 2-(α,2-Dimethoxybenzyl)furan | COC(C1=C(C=CC=C1)OC)C=1OC=CC1 | C13H14O3
